US08981104B2
(4-{2-[4-(Trifluoromethyl)phenyl]ethyl}phenyl)methanol
At room temperature and under argon, 12.3 ml of a 1 M solution of lithium aluminium hydride in THF were slowly added dropwise to a solution of 11.5 g (37.30 mmol) of methyl 4-{2-[4-(trifluoromethyl)phenyl]ethyl}benzoate in 150 ml of dry THF. After the addition had ended, the reaction mixture was stirred at room temperature for another hour. The reaction mixture was then cooled to 0° C., and 150 ml of ice-cooled 1 M hydrochloric acid were added slowly and carefully. About 250 ml of ethyl acetate were then added, the aqueous phase was separated off and the organic phase was washed successively in each case once with 1 M hydrochloric acid and saturated sodium chloride solution. The organic phase was then dried over magnesium sulphate, filtered and concentrated to dryness. This gave 9.69 g (34.57 mmol, 93% of theory) of the title compound.

reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 4-{2-[4-(trifluoromethyl)phenyl]ethyl}benzoate | 37.30 mmol, 11.5 g | FC(C1=CC=C(C=C1)CCC1=CC=C(C(=O)OC)C=C1)(F)F | C17H15F3O2
reactant | hydrochloric acid | 1 M | Cl | ClH
reactant | ethyl acetate | 250 ml | C(C)(=O)OCC | C4H8O2
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | (4-{2-[4-(Trifluoromethyl)phenyl]ethyl}phenyl)methanol | FC(C1=CC=C(C=C1)CCC1=CC=C(C=C1)CO)(F)F | C16H15F3O
